US07632840B2
N-(3-chloro-2-fluorophenyl)-6-(chloromethyl)-7-methoxyquinazolin-4-amine hydrochloride (0.30 g, 0.775 mmol) was added over a period of 40 minutes to a stirred solution of tert-butyl 4-(aminocarbonyl)-4-(methylamino)piperidine-1-carboxylate (0.498 g, 1.93 mmol) and DIPEA (0.50 g, 3.89 mmol) in DMF (1 ml) at 120° C. The reaction mixture was stirred for 1 hour, cooled, concentrated and purified by column chromatography on silica eluting with acetonitrile to afford tert-butyl 4-(aminocarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-1-carboxylate (0.35 g, 79%) as a white foam; Mass Spectrum: (M+H)+ 573.

reactant | N-(3-chloro-2-fluorophenyl)-6-(chloromethyl)-7-methoxyquinazolin-4-amine hydrochloride | 0.775 mmol, 0.30 g | Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)CCl)OC)F
reactant | tert-butyl 4-(aminocarbonyl)-4-(methylamino)piperidine-1-carboxylate | 1.93 mmol, 0.498 g | NC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)NC | C12H23N3O3
reactant | DIPEA | 3.89 mmol, 0.50 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-butyl 4-(aminocarbonyl)-4-[({4-[(3-chloro-2-fluorophenyl)amino]-7-methoxyquinazolin-6-yl}methyl)(methyl)amino]piperidine-1-carboxylate | 0.35 g, 79% | NC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)N(C)CC=1C=C2C(=NC=NC2=CC1OC)NC1=C(C(=CC=C1)Cl)F | C28H34ClFN6O4
